Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Symptomatic fibroid uterus, preoperative exam
 
Major Surgical or Invasive Procedure:
Exam under anesthesia, abdominal myomectomy (removal of 19 
fibroids), lysis of adhesions, removal of left paratubal cyst, 
blood transfusion 

 
History of Present Illness:
This is a ___ gravida 1,
para 1 with symptomatic fibroid uterus.  She presented to the
practice on ___ when she saw nurse practitioner ___,
for removal of her ParaGard IUD.  She was interested in 
pregnancy
at that time.  Of note, the patient has had a several-year
history of heavy vaginal bleeding.  At that time, Pap was done,
which was negative for intraepithelial lesion or malignancy and
she also tested negative for the high-risk HPV.  

The patient has another visit with nurse practitioner ___ 
on
___ for the insertion of a Mirena IUD.  The patient
decided that she did not want to pursue pregnancy at that time
and her heavy bleeding had persisted.  Her hematocrit at that
time was 30.4%. The Mirena IUD was placed and the patient was
also set up for IV iron infusion.  The patient most recently had
two doses of IV Feraheme on ___ and ___.  The
patient notes that in spite of the Mirena IUD she continues with
heavy bleeding.  A complete blood count will be ordered today.

Her last imaging study of her pelvis was done on ___ and
it showed uterus that was enlarged with multiple hypodense
lesions reflecting fibroids, included an 8.3-cm exophytic fundal
fibroid, a dominant right fibroid measuring 10.6 cm, and a
dominant left fibroid measuring 9.3 cm.  The endometrium was
distorted by fibroids.  The IUD appeared in satisfactory
position.

OB/GYN HISTORY:  Menarche at 11.  Prior to the Mirena, she 
cycled
every 21 days and bled for 14 days with clots.  Post-Mirena, she
cycles more like every 28 days with decreased bleeding; 
although,
still heavy for five days.  She has had one pregnancy.  She had 
a
term delivery via cesarean delivery without complications.  She
has never had a sexually transmitted infection.
 
Past Medical History:
PAST MEDICAL HISTORY:  Hypertension and anxiety.

OB/GYN HISTORY:  Menarche at 11.  Prior to the Mirena, she 
cycled every 21 days and bled for 14 days with clots.  
Post-Mirena, she cycles more like every 28 days with decreased 
bleeding; although, still heavy for five days.  She has had one 
pregnancy.  She had a term delivery via cesarean delivery 
without complications.  She has never had a sexually transmitted 
infection.

SURGICAL HISTORY:  Primary cesarean.
 
Social History:
___
Family History:
Mother with lupus, hypertension, breast cancer
in her early ___.  Father with diabetes type II and liver 
cancer.
 Paternal grandmother with type 2 diabetes.

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 11:06AM   GLUCOSE-103*
___ 11:06AM   UREA N-13 CREAT-0.8 SODIUM-138 POTASSIUM-3.8 
CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 11:06AM   estGFR-Using this
___ 11:06AM   ALT(SGPT)-7
___ 11:06AM   WBC-6.6 RBC-3.70* HGB-7.3* HCT-26.0* MCV-70*# 
MCH-19.7*# MCHC-28.1* RDW-15.9* RDWSD-40.4
___ 11:06AM   PLT COUNT-234
___ 11:06AM   ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing EUA, abdominal myomectomy, LOA, removal of L 
paratubal cyst. Please see the operative report for full 
details.

Intra-operatively patient had an EBL of 1200 cc, given a 
pre-operative hct of 26, she was transfused 2 units of packed 
RBC's. On post-operative day 1 she had a hct of 19 and was 
symptomatic on ambulation, she therefore received one addition 
unit of pRBC's. She remained hemodynamically stable throughout 
the remainder of her admission. 

Immediately post-op, her pain was controlled with IV Dilaudid 
and Toradol.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, ibuprofen, acetaminophen.

By post-operative day 3, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
___ IUD
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H pain 
Do not take >4000mg acetaminophen in 24h. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID 
Hold for loose stools. 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily to 
prevent constipation. Disp #*60 Tablet Refills:*0
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
Take with food to avoid GI upset. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
___ cause sedation. Do not drive or combine with alcohol. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*45 Tablet Refills:*0
5. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*2
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 g by 
mouth once ___ Refills:*1
7. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [Senna-Gen] 8.6 mg 1 tablet by mouth twice a day 
Disp #*60 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) until 
your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___